* aaaaa aaaaa aaaaaa
V1 1 0 0
V2 sdf6 0 3
R1 2 1 450
R2 4 fs3 640
R3 5 d3 10e3
L1 3 6 1e-6
* bb bbbbb bbbbb bbbb b
C1 4 0 2e-12
	  * gggg gggg g ggggg
  M1 5	 d4a 0 0 pmos L=1e-6 W=45e-6 
Q1 fd43s 2 0 mod1 2.0   